US04675324
A solution of cyclopropyl-carbonyl chloride (2.09 g) in chloroform (5 ml) was added dropwise to a solution of 6-chloro-4-oxo-1,2,3,4-tetrahydroquinoline (1.815 g), N,N-dimethylaniline (2.42 g), and 4-dimethylaminopyridine (0.488 g) in chloroform (15 ml) with stirring and ice cooling over a period of 10 minutes. After being stirred overnight at ambient temperature, the mixture was washed successively with 10% hydrochloric acid, water, aqueous sodium bicarbonate, and water, dried over magnesium sulfate, and evaporated in vacuo. The residual solid was washed with diethyl ether and dried to give 6-chloro-1-cyclopropyl-carbonyl-4-oxo-1,2,3,4-tetrahydroquinoline (2.14 g).

reactant | cyclopropyl-carbonyl chloride | 2.09 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 6-chloro-4-oxo-1,2,3,4-tetrahydroquinoline | 1.815 g | ClC=1C=C2C(CCNC2=CC1)=O | C9H8ClNO
reactant | N,N-dimethylaniline | 2.42 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 0.488 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-chloro-1-cyclopropyl-carbonyl-4-oxo-1,2,3,4-tetrahydroquinoline | 2.14 g | ClC=1C=C2C(CC(N(C2=CC1)C1CC1)=C=O)=O | C13H10ClNO2
